US06734180B1
2-(tert-butoxycarbonylamino)-4-hydroxyindan
After 2-amino-4-methoxyindan (290 mg, 1.8 mmol) was demethylated using 30% hydrobromic acid-acetic acid (1.8 ml) and an aqueous solution of 48% hydrobromic acid (1.2 ml), a similar procedure to c) in Method 1 of Preparation Example 1 was carried out using dioxane (5.9 ml), water (3.0 ml), triethylamine (about 0.55 ml), and di-tert-butyldicarbonate (420 mg, 1.9 mmol) to obtain the title compound (110 mg, 0.45 mmol) having the following physical properties:

reactant | 2-amino-4-methoxyindan | 1.8 mmol, 290 mg | NC1CC2=CC=CC(=C2C1)OC | C10H13NO
reactant | hydrobromic acid acetic acid | 1.8 ml | Br.C(C)(=O)O
reactant | hydrobromic acid | 1.2 ml | Br | BrH
reactant | di-tert-butyldicarbonate | 1.9 mmol, 420 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | about 0.55 ml | C(C)N(CC)CC | C6H15N
solvent | water | 3.0 ml | O | H2O
solvent | dioxane | 5.9 ml | O1CCOCC1 | C4H8O2
product | 2-(tert-butoxycarbonylamino)-4-hydroxyindan | 0.45 mmol, 110 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=CC(=C2C1)O | C14H19NO3
